US07674801B2
Methyl 4-(2-amino-1,3-thiazol-4-yl)benzoate
Methyl 4-(bromoacetyl)benzoate (300 mg, 1.17 mmol) and thiourea 110 mg, 1.40 mmol) were taken in MeOH (5 ml) and refluxed for 2 hours. The precipitated product was collected by filtration, washed with MeOH and dried (260 g). MS (ESP): 235 (M+H+) for C11H10N2O2S; NMR: 3.87 (s, 3H), 7.38 (s, 1H), 7.90 (d, 2H), 8.01 (d, 2H).

reactant | Methyl 4-(bromoacetyl)benzoate | 1.17 mmol, 300 mg | BrCC(=O)C1=CC=C(C(=O)OC)C=C1 | C10H9BrO3
reactant | thiourea | 1.40 mmol, 110 mg | NC(=S)N | CH4N2S
solvent | MeOH | 5 ml | CO | CH4O
product | Methyl 4-(2-amino-1,3-thiazol-4-yl)benzoate | NC=1SC=C(N1)C1=CC=C(C(=O)OC)C=C1 | C11H10N2O2S
